US04271186
4.16 g (0.02 mol) of 3-(2-phenyl-vinyl)-benzaldehyde and 4.62 g (0.02 mol) of α-isoproyl-4-chlorophenyl-acetic acid chloride were added dropwise, together, to a mixture of 1.5 g of sodium cyanide, 2 ml of water, 40 ml of n-hexane and 0.5 g of tetrabutylammonium bromide at 20°-25° C., whilst stirring, and the mixture was then stirred at 20°-25° C. for 4 hours. 300 ml of toluene were then added to the reaction mixture, and the mixture was extracted by shaking twice with 300 ml of water each time. The organic phase was separated off and dried over magnesium sulphate and the solvent was distilled off under a waterpump vacuum. Last residues of solvent were removed by subjecting the product to brief incipient distillation at a bath temperature of 60° C./1 mm Hg. 6 g (69.9% of theory) of α-isopropyl-4-chlorophenylacetic acid 3-(2-phenylvinyl)-α-cyanobenzyl ester were obtained as a yellow oil with the refractive index nD22 : 1.5879 (isomer mixture with a cis-stilbene proportion of about 90%).

reactant | 3-(2-phenyl-vinyl)-benzaldehyde | 0.02 mol, 4.16 g | C1(=CC=CC=C1)C=CC=1C=C(C=O)C=CC1 | C15H12O
reactant | α-isoproyl-4-chlorophenyl-acetic acid chloride | 0.02 mol, 4.62 g | C(C)(C)C(C(=O)Cl)C1=CC=C(C=C1)Cl | C11H12Cl2O
reactant | sodium cyanide | 1.5 g | [C-]#N.[Na+]
reactant | water | 2 ml | O | H2O
catalyst | tetrabutylammonium bromide | 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | 40 ml | CCCCCC | C6H14
product | α-isopropyl-4-chlorophenylacetic acid 3-(2-phenylvinyl)-α-cyanobenzyl ester | 6 g, 69.9% | C1(=CC=CC=C1)C=CC=1C=C(C(C#N)OC(C(C(C)C)C2=CC=C(C=C2)Cl)=O)C=CC1 | C27H24ClNO2
